US06794397B2
6-Fluoro-N-(4-ethoxy-2-nitrophenyl)-3-pyridinecarboxamide
To the solution of KMnO4 (284 mg, 1.8 mmol) in H2O (50 mL) was added 2-fluoro-5-methylpyridine (100 mg, 0.9 mmol) at room temperature. The reaction mixture was then heated to 100° C. for 4 h. The resulting precipitate was filtered and discarded. The aqueous solution was washed with 3:2, hexane: ethyl acetate (2×20 mL), acidified with 2N HCl, then extracted with ethyl acetate (3×20 mL). The organic extracts were combined and washed with H2O and brine, dried over anhydrous Na2SO4. The solvent was evaporated in vacuo to give 6-fluoronicotinic acid (30 mg) as a white solid. The title compound was prepared from 6-fluoronicotinic acid and 4-ethoxy-2-nitroaniline as a yellow solid as described in Example 15. 1H NMR (CDCl3): 11.09 (bs, 1H), 8.88 (d, J=2.4, 1H), 8.81 (d, J=9.3, 1H), 8.42-8.35 (m, 1H), 7.74 (d, J=3.3, 1H), 7.33-7.29 (m, 1H), 7.13-7.10 (m, 1H), 4.11 (q, J=7.2, 2H), 1.47 (t, J=7.2, 3H).

reactant | 6-fluoronicotinic acid | FC1=NC=C(C(=O)O)C=C1 | C6H4FNO2
reactant | 4-ethoxy-2-nitroaniline | C(C)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H10N2O3
product | 6-Fluoro-N-(4-ethoxy-2-nitrophenyl)-3-pyridinecarboxamide | FC1=CC=C(C=N1)C(=O)NC1=C(C=C(C=C1)OCC)[N+](=O)[O-] | C14H12FN3O4
